US05039820
Example 6D. Preparation of 4-(di-n-propyl)amino-6-aminocarbonyl-1,3,4,5-tetrahydrobenz[cd]indole
Manganese dioxide (43.3 g, 498 m moles) was suspended in 1,2-dichloroethane (400 ml) in a 2-liter flask. The manganese dioxide suspension was cooled to -5° C., and acetic acid was added to the flask (300 ml). The manganese dioxide suspension was again cooled to -5° C. 4-(di-n-propyl)amino-6-aminocarbonyl-1,2,2a,3,4,5-hexahydrobenz[cd]indole (100 g, 332 m moles) was dissolved in acetic acid (300 ml). The solution was added to the manganese dioxide suspension while the temperature was maintained between -6° and 0° C. The reaction mixture was stirred for 2.5 hours. Filter aid (45 g) was added to the reaction mixture, which was then filtered. The filter cake was washed with acetic acid (600 ml) and dichloroethane (800 ml). The filtrate was evaporated in vacuo. The residue was taken up in toluene (500 ml), and the solution was evaporated in vacuo. The residue was again taken up in toluene (500 ml), and the solution was evaporated in vacuo. To the residue (186 g) was added aqueous sodium hydroxide (2.0 N, 700 ml). The mixture was stirred for 30 minutes, and filter aid (45 g) was added to the mixture. The mixture was filtered, and the filter cake was washed with 1,2-dichloroethane (500 ml). The organic phase of the filtrate was washed with water (700 ml), washed with saturated sodium chloride (700 ml), and then dried over sodium sulfate. The solvent was evaporated in vacuo to afford 96.8 g of the desired compound which was identified by comparison of nmr spectrum with the known compound.

reactant | 4-(di-n-propyl)amino-6-aminocarbonyl-1,2,2a,3,4,5-hexahydrobenz[cd]indole | 100 g | C(CC)N(C1CC=2C=3C(CNC3C=CC2C(=O)N)C1)CCC | C18H27N3O
solvent | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | Manganese dioxide | 43.3 g | [O-2].[O-2].[Mn+4]
product | 4-(di-n-propyl)amino-6-aminocarbonyl-1,3,4,5-tetrahydrobenz[cd]indole | 96.8 g | C(CC)N(C1CC=2C=3C(=CNC3C=CC2C(=O)N)C1)CCC | C18H25N3O
